US07790720B2
A mixture of ethyl 3-bromo-4-oxopentanoate (2 g, 8.98 mmol, 1 eq), and 4-(3-chloropropoxy)benzenecarbothioamide ax71 (2.06 g, 8.97 mmol, 1 eq) in dimethylformamide (4 ml) is stirred at 100° C. for 2 h. The reaction mixture is then added to ethyl acetate (200 ml) and the precipitate filtered off. The organic layer is washed with water (4×100 ml), brine, dried over magnesium sulfate and filtered. The solvent is removed under reduced pressure. Purification by chromatography over silicagel (eluent: benzine/ethyl acetate 95:5 to 85:15) affords 1.3 g of ethyl {2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazol-5-yl}acetate i102.

reactant | ethyl 3-bromo-4-oxopentanoate | 8.98 mmol, 2 g, 1 eq | BrC(CC(=O)OCC)C(C)=O | C7H11BrO3
reactant | 4-(3-chloropropoxy)benzenecarbothioamide | ClCCCOC1=CC=C(C=C1)C(N)=S | C10H12ClNOS
reactant | ethyl acetate | 200 ml | C(C)(=O)OCC | C4H8O2
solvent | dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | ethyl {2-[4-(3-chloropropoxy)phenyl]-4-methyl-1,3-thiazol-5-yl}acetate | 1.3 g, Yield: 40% | ClCCCOC1=CC=C(C=C1)C=1SC(=C(N1)C)CC(=O)OCC | C17H20ClNO3S
